US07557114B2
(b) 5-(4,4-Difluoro-piperidin-1-yl)-2,3-Dihydro-1H-isoindole hydrochloride
Prepared in analogy to Example A3(e) from 5-(4,4-difluoro-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and hydrochloric acid. Light yellow solid. MS (m/e): 239.3 ([M+H]+, 100%).

reactant | 5-(4,4-difluoro-piperidin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCC(CC1)(F)F | C18H24F2N2O2
reactant | hydrochloric acid | Cl | ClH
product | 5-(4,4-Difluoro-piperidin-1-yl)-2,3-Dihydro-1H-isoindole hydrochloride | Cl.FC1(CCN(CC1)C=1C=C2CNCC2=CC1)F | InChI=1S/C13H16F2N2.ClH/c14-13(15)3-5-17(6-4-13)12-2-1-10-8-16-9-11(10)7-12;/h1-2,7,16H,3-6,8-9H2;1H
